US07399775B2
1-Chloro-4-(benzylsulfonyl)benzene
Sodium 4-chlorobenzenesulfinate (306 mg, 1.54 mmol) and benzyl bromide (0.18 ml, 1.54 mmol) were added to n-butanol (15 ml). The resulting mixture was stirred at 70° C. for 5 hours. After cooling to room temperature, the solvent was concentrated under reduced pressure. To the residue were added ethyl acetate. The resulting mixture was washed successively with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column, whereby from the fraction eluted with hexane:ethyl acetate (=8:1), the title compound (299 mg, 73%) was obtained as a white solid.

reactant | Sodium 4-chlorobenzenesulfinate | 1.54 mmol, 306 mg | ClC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | benzyl bromide | 1.54 mmol, 0.18 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | n-butanol | 15 ml | C(CCC)O | C4H10O
product | 1-Chloro-4-(benzylsulfonyl)benzene | 299 mg, 73% | ClC1=CC=C(C=C1)S(=O)(=O)CC1=CC=CC=C1 | C13H11ClO2S
